US07169925B2
Step D5: 3-Amino-6-chloro-1H-indole-2-carboxylic acid, ethyl ester
Add 1N ethanolic potassium hydroxide solution (100 mL) to 3-amino-1-(ethanoyl)-6-chloro-1H-indole-2-carboxylic acid ethyl ester (3.5 g, 12.5 mmol) and permit the reaction to stand for 20 min. Pour the resulting slurry into water at 5° C. with rapid stirring. Age at 0° C. for 10 min., collect the solid, wash it with water dry it at 40° C. under vacuum and obtain 2.42 g (81%) of the title compound: MS 239(M+H).

reactant | potassium hydroxide | 1N, 100 mL | [OH-].[K+]
reactant | 3-amino-1-(ethanoyl)-6-chloro-1H-indole-2-carboxylic acid ethyl ester | 12.5 mmol, 3.5 g | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1N)Cl)C(C)=O | C13H13ClN2O3
solvent | water | O | H2O
product | 3-Amino-6-chloro-1H-indole-2-carboxylic acid, ethyl ester | 2.42 g, 81% | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OCC | C11H11ClN2O2
